US05721245
190 mg of sodium borohydride were added to a stirred solution of 650 mg of 8,9-dihydropyrido[1,2-a]indol-7(6H)-one in 50 ml of methanol under a nitrogen atmosphere. The mixture was stirred and then poured into 100 ml of saturated ammonium chloride solution. The mixture was extracted with ethyl acetate and the combined extracts were dried and evaporated to give a solid. This was crystallized from diethyl ether/n-hexane and gave 500 mg of 6,7,8,9-tetrahydro-7-hydroxypyrido[1,2-a]indole of melting point 99°-100° C.

reactant | sodium borohydride | 190 mg | [BH4-].[Na+]
reactant | 8,9-dihydropyrido[1,2-a]indol-7(6H)-one | 650 mg | C1=C2C=C3N(C2=CC=C1)CC(CC3)=O | C12H11NO
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
product | 6,7,8,9-tetrahydro-7-hydroxypyrido[1,2-a]indole | 500 mg | OC1CCC=2N(C3=CC=CC=C3C2)C1 | C12H13NO
